US06756378B2
To a stirred solution of methyl 3-bromo-4-[N′-(2-bromophenyl)ureido]phenylacetate (770 mg, 1.74 mmol) in THF (10 ml) was added 0.25 N NaOH (10 ml). After stirring at room temperature for 14 h, the solvent was concentrated in vacuo. The residue was triturated by the addition of 1 N HCl and dried at 60° C. for 2 days under a reduced pressure to give 3-bromo-4-[N′-(2-bromophenyl) ureido]phenylacetic acid (702 mg, 94%) as colorless powder. 1H-NMR (DMSO-d6) δ3.56 (s, 2H), 6.99 (dt, J=7.8, 1.5 Hz, 1H), 7.21 (dd, J=8.3, 1.7 Hz, 1H), 7.33 (dt, J=7.1, 1.5 Hz, 1H), 7.53 (d, J=1.7 Hz, 1H), 7.62 (dd, J=8.1, 1.5 Hz, 1H), 7.82 (d, J=8.3 Hz, 1H), 7.93 (dd, J=8.1, 1.5 Hz, 1H), 8.82 (s, 1H), 8.86 (s, 1H), 12.39 (s, 1H); MS (ESI) m/z 428 (M++1), 430 (M++3).

reactant | methyl 3-bromo-4-[N′-(2-bromophenyl)ureido]phenylacetate | 1.74 mmol, 770 mg | BrC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)Br)CC(=O)OC | C16H14Br2N2O3
reactant | NaOH | 0.25 N, 10 ml | [OH-].[Na+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-bromo-4-[N′-(2-bromophenyl) ureido]phenylacetic acid | 702 mg, 94% | BrC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)Br)CC(=O)O | C15H12Br2N2O3
